US04433150
3.45 g of potassium carbonate and 1.39 g of 2-phenylethyl bromide are added to a solution of 1.72 g of 1-[2-(4-methyl-phenyl)-4-quinolyl]-2-(4-piperidyl)-ethanone, prepared as indicated in Example 8, in 25 ml of dimethylformamide. The suspension, well stirred, is heated for 5 hours at 60° C., then poured into 1 liter of ice-water. The oil which separates is decanted, washed with water, then 100 ml of ether and 100 ml of a 1 N aqueous solution of hydrochloric acid are added. The precipitate formed is filtered, washed with water and then with acetone. 2 g of 1[2-(4-methyl-phenyl)-4-quinolyl]-2-[1-(2-phenyl-ethyl)-4-piperidyl]-ethanone are obtained in the form of dihydrochloride melting at 195° C.

reactant | potassium carbonate | 3.45 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-phenylethyl bromide | 1.39 g | C1(=CC=CC=C1)CCBr | C8H9Br
reactant | 1-[2-(4-methyl-phenyl)-4-quinolyl]-2-(4-piperidyl)-ethanone | 1.72 g | CC1=CC=C(C=C1)C1=NC2=CC=CC=C2C(=C1)C(CC1CCNCC1)=O | C23H24N2O
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 1[2-(4-methyl-phenyl)-4-quinolyl]-2-[1-(2-phenyl-ethyl)-4-piperidyl]-ethanone | 2 g | CC1=CC=C(C=C1)C1=NC2=CC=CC=C2C(=C1)C(CC1CCN(CC1)CCC1=CC=CC=C1)=O | C31H32N2O
